US07598257B2
Step 2. N-Hydroxy-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carboximidamide
1-[2-(Trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile (0.05 g, 0.0002 mol) was dissolved in ethanol (2.0 mL, 0.034 mol), and then hydroxylamine hydrochloride (0.023 g, 0.00033 mol) and potassium carbonate (0.10 g, 0.00073 mol) were added. The reaction was heated to reflux for 5 h, and the reaction was then allowed to cool to rt and filtered to remove the solids. The filtrate was concentrated to give the product 0.06 g as yellow oily residue, LC/MS (M+H)+ 307.

reactant | 1-[2-(Trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 0.0002 mol, 0.05 g | C[Si](CCOCN1C=CC2=C1N=CC=C2C#N)(C)C | C14H19N3OSi
reactant | ethanol | 0.034 mol, 2.0 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 0.00033 mol, 0.023 g | Cl.NO
reactant | potassium carbonate | 0.00073 mol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
product | N-Hydroxy-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carboximidamide | 0.06 g | ONC(=N)C=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C | C14H22N4O2Si
